US04207088
The procedure of Example XVIII was followed using 4.5 g of cis-4-ethyl-5-hydroxy-1,3-dioxane and 8.1 g of a methanolic solution 25% in sodium methylate, and 4.3 g of benzyl chloride in 180 ml of dry toluene. The reaction product was distilled under reduced pressure to give in free fractions 4.8 g of cis-5-benzyloxy-4-ethyl-1,3-dioxane; bp 96°-100°/0.01 mm; ir and nmr spectra were consistent with the assigned structure.

reactant | cis-4-ethyl-5-hydroxy-1,3-dioxane | 4.5 g | C(C)[C@@H]1OCOC[C@@H]1O | C6H12O3
reactant | benzyl chloride | 4.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | sodium methylate | C[O-].[Na+]
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | cis-5-benzyloxy-4-ethyl-1,3-dioxane | 4.8 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](OCOC1)CC | C13H18O3
